US06417009B1
p-Toluenesulfonyl chloride (17.1 g) was added portionwise to triethylene glycol (15 g) in pyridine (600 ml) at 0° C. The solution was allowed to warm to room temperature and stirring continued for 16 h. The solvent was removed under reduced pressure to approximately 50 ml and the residue diluted with hydrochloric acid (100 ml, 3M), extracted with dichloromethane (3×100 ml), washed with brine (150 ml), dried (Na2SO4), and the solvent removed under reduced pressure. The resulting pale orange oil was purified by flash chromatography (ethyl acetate) to give triethylene glycol mono tosylate from the most polar fractions as a clear oil (6.94 g, 23%). 1H nmr (CDCl3) δ2.44 (s, 3H), 2.56 (br s, 1H OH), 3.56-3.73 (m, 10H), 4.16 (m, 2H), 7.38 and 7.78 (AB quartet, 2H each); 13C nmr (CDCl3) δ21.33, 42.52, 61.25, 68.31, 69.00, 69.86, 70.36, 72.25, 127.64, 129.63, 144.71; m/z (CI) 305 (M+H)+.

reactant | p-Toluenesulfonyl chloride | 17.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylene glycol | 15 g | C(COCCOCCO)O | C6H14O4
solvent | pyridine | 600 ml | N1=CC=CC=C1 | C5H5N
product | triethylene glycol mono tosylate | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOCCOCCO | C13H20O6S
